US05061726
A solution of 2-benzylthiomethyl-3,3-dimethylbutanol (3.7 g) in dry dichloromethane (15 ml) was added to a mechanically stirred suspension of pyridinium chlorochromate (10 g) and sodium acetate (1 g) in dichloromethane (100 ml) at 0° C. The resulting mixture was stirred at room temperature for two hours and then diethylether (300 ml) was added. The reaction mixture was passed through a short column of silica and charcoal (1:1) and then evaporated in vacuo to leave 2-benzylthiomethyl-3,3-dimethylbutanal as an oil (1.42 g).

reactant | 2-benzylthiomethyl-3,3-dimethylbutanol | 3.7 g | C(C1=CC=CC=C1)SCC(CO)C(C)(C)C | C14H22OS
reactant | pyridinium chlorochromate | 10 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | 1 g | C(C)(=O)[O-].[Na+]
reactant | charcoal | C | CH4
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | diethylether | 300 ml | C(C)OCC | C4H10O
product | 2-benzylthiomethyl-3,3-dimethylbutanal | 1.42 g | C(C1=CC=CC=C1)SCC(C=O)C(C)(C)C | C14H20OS
